US07034039B2
To a solution of tert-butyl[4-butoxy-2-cyclopropylmethyl-6-(1,3-oxazol-5-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.19 g, 0.4 mmol) in ethyl acetate (5 mL) was added a solution of 4N hydrogen chloride in ethyl acetate (5 mL) and the obtained solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diethyl ether to give 3-(aminomethyl)-4-butoxy-2-cyclopropylmethyl-6-(1,3-oxazol-5-yl)-1(2H)-isoquinolinone hydrochloride (0.15 g, 93.8%) as crystals.

reactant | tert-butyl[4-butoxy-2-cyclopropylmethyl-6-(1,3-oxazol-5-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.4 mmol, 0.19 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=CN=CO1)=O)CC1CC1)=O | C26H33N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-cyclopropylmethyl-6-(1,3-oxazol-5-yl)-1(2H)-isoquinolinone hydrochloride | 0.15 g, 93.8% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=CN=CO1)=O)CC1CC1 | InChI=1S/C21H25N3O3.ClH/c1-2-3-8-26-20-17-9-15(19-11-23-13-27-19)6-7-16(17)21(25)24(18(20)10-22)12-14-4-5-14;/h6-7,9,11,13-14H,2-5,8,10,12,22H2,1H3;1H
